US08686184B2
5′-[(R)-2-Carboxy-1-(2-chloro-benzyl)-ethylcarbamoyl]-2′-methyl-biphenyl-2-carboxylic Acid
(R)-3-(3-Bromo-4-methyl-benzoylamino)-4-(2-chloro-phenyl)-butyric acid ethyl ester (103 mg, 235 μmol, 1.0 eq.) was combined with 2-t-butoxycarbonylphenylboronic acid pinacol ester (85.9 mg, 282 μmol, 1.2 eq.). Toluene (328 μL) was added followed by EtOH (180 μL) then K2CO3 (65.1 mg, 471 μmol, 2.0 eq.) predissolved in water (61.5 μL). The mixture was stirred to aid in dissolution. The reaction vessel was purged with nitrogen then Pd(PPh3)4 (27.2 mg, 23.5 μmol) was added quickly. The reaction vessel was capped and heated to 100° C. for 30 minutes. The organics were removed and evaporated under vacuum. 1:1 TFA/DCM (0.2 mL each) was added and the resulting mixture was stirred for 30 minutes. The solvents were evaporated and THF (3 mL) and 1 M aqueous NaOH (706 μL, 3.0 eq.) were added. The mixture was stirred for 2 hours and EtOAc was added.

reactant | (R)-3-(3-Bromo-4-methyl-benzoylamino)-4-(2-chloro-phenyl)-butyric acid ethyl ester | 235 μmol, 103 mg, 1.0 eq. | C(C)OC(C[C@@H](CC1=C(C=CC=C1)Cl)NC(C1=CC(=C(C=C1)C)Br)=O)=O | C20H21BrClNO3
reactant | 2-t-butoxycarbonylphenylboronic acid pinacol ester | 282 μmol, 85.9 mg, 1.2 eq. | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)B1OC(C)(C)C(C)(C)O1 | C17H25BO4
reactant | K2CO3 | 471 μmol, 65.1 mg, 2.0 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 1 M, 706 μL, 3.0 eq. | [OH-].[Na+]
solvent | water | 61.5 μL | O | H2O
catalyst | Pd(PPh3)4 | 23.5 μmol, 27.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | EtOH | 180 μL | CCO | C2H6O
solvent | Toluene | 328 μL | C1(=CC=CC=C1)C | C7H8
product | 5′-[(R)-2-Carboxy-1-(2-chloro-benzyl)-ethylcarbamoyl]-2′-methyl-biphenyl-2-carboxylic Acid | C(=O)(O)C[C@@H](CC1=C(C=CC=C1)Cl)NC(=O)C=1C=CC(=C(C1)C=1C(=CC=CC1)C(=O)O)C | C25H22ClNO5
